US05502191
5-(2-Methoxyphenyl)-1H-tetrazole
The title compound is prepared by the procedure of Example 1 using 2-methoxybenzonitrile, zinc chloride, sodium azide and N,N-dimethylformamide. The reaction is heated at reflux temperature for 5 hours, acidified with 10% hydrochloric acid, extracted with ethyl acetate, dried and concentrated in vacuo. The residue is chromatographed (silica gel: 50% ethyl acetate/methylene chloride) to give 2.57 g (yield=36% of theory).

reactant | 2-methoxybenzonitrile | COC1=C(C#N)C=CC=C1 | C8H7NO
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(2-Methoxyphenyl)-1H-tetrazole | yield=36% | COC1=C(C=CC=C1)C1=NN=NN1 | C8H8N4O
